US05438053
2-Hydroxymethyl-5-(4-methoxybenzyloxy)-4-pyrone (2.62 g) was dissolved in dichloromethane (48 ml). To the solution was added, while stirring at room temperature, p-toluenesulfonic acid (100 mg). To the mixture was added dropwise 3,4-dihydro-2H-pyrane (2.28 ml). The mixture was stirred for 3 hours at room temperature. The reaction mixture was washed with an aqueous solution of sodium hydrogencarbonate and an aqueous saline solution, which was dried over anhydrous magnesium sulfate, followed by concentration under reduced pressure. The concentrate was crystallized from ether, and the crystals were collected by filtration to give 1.85 g of 5-(4-methoxybenzyloxy)-2-(tetrahydropyran-2-yl)oxymethyl-4-pyrone as colorless crystals, m.p.95°-96° C. IR(KBr): 3070, 2940, 1650, 1620, 1510, 1450, 1210, 1020 cm-1. 1H-NMR(DMSO-d6) ε: 1.4-1.8(6H,m), 3.4-3.55(1H,m), 3.65-3.85(4H,m), 4.40(2H,ABq,J=14 Hz), 4.07(1H,br.), 4.86(2H,s), 6.38(1H,s), 6.93(2H,d,J=8 Hz), 7.33(2H,d,J=8 Hz), 8.16(1H,s)

reactant | 2-Hydroxymethyl-5-(4-methoxybenzyloxy)-4-pyrone | 2.62 g | OCC=1OC=C(C(C1)=O)OCC1=CC=C(C=C1)OC | C14H14O5
reactant | p-toluenesulfonic acid | 100 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | 3,4-dihydro-2H-pyrane | 2.28 ml | O1CCCC=C1 | C5H8O
solvent | dichloromethane | 48 ml | ClCCl | CH2Cl2
product | 5-(4-methoxybenzyloxy)-2-(tetrahydropyran-2-yl)oxymethyl-4-pyrone | 1.85 g | COC1=CC=C(COC=2C(C=C(OC2)COC2OCCCC2)=O)C=C1 | C19H22O6
